US03971791
Upon heating a solution of 6.3 g of isoquinolin-1-aldehyde, 4.5 g of cyclohexane-1,3-dione and 5.2 g of amidinoacetic acid ethyl ester in 100 ml of ethanol for 2 hours, 2-amino-4-(isoquinol-1-yl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester of melting point 272°C (ethanol) is obtained.

reactant | isoquinolin-1-aldehyde | 6.3 g | C1(=NC=CC2=CC=CC=C12)C=O | C10H7NO
reactant | cyclohexane-1,3-dione | 4.5 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | amidinoacetic acid ethyl ester | 5.2 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4-(isoquinol-1-yl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC=2CCCC(C2C1C1=NC=CC2=CC=CC=C12)=O)N | C21H21N3O3
